US05270313
170 mg of rac-p-[[5-(o-methoxybenzyl)-6-[2-[(tetrahydro-2H-pyran-2-yl]oxy]ethoxy]-4-pyrimidinyl]sulfamoyl]benzaldehyde and, after 30 minutes, 1 ml of absolute tetrahydrofuran were added at room temperature to a Grignard solution prepared from 60 mg of magnesium and 0.15 ml of methyl iodide in diethyl ether. After stirring at room temperature for 3 hours, the reaction was interrupted by the addition of saturated ammonium chloride solution. The reaction mixture was diluted with ethyl acetate and the aqueous phase was extracted twice with ethyl acetate. The organic phase was washed with water and saturated NaCl solution, dried and evaporated under reduced pressure. The residue was chromatographed over 35 g of SiO2 with CH2Cl2 /ethyl acetate (8:2) and (1:1) and yielded 135 mg of p-[(RS)-1-hydroxyethyl]-N-[5-(methoxybenzyl)-6-[2-[[(RS)-tetrahydro-2H-pyran-2-yl]oxy]ethoxy]-4-pyrimidinyl]benzene-sulfonamide melting point >56° C. (sublimation).

reactant | rac-p-[[5-(o-methoxybenzyl)-6-[2-[(tetrahydro-2H-pyran-2-yl]oxy]ethoxy]-4-pyrimidinyl]sulfamoyl]benzaldehyde | 170 mg | COC1=C(CC=2C(=NC=NC2OCCOC2OCCCC2)NS(=O)(=O)C2=CC=C(C=O)C=C2)C=CC=C1 | C26H29N3O7S
reactant | magnesium | 60 mg | [Mg] | Mg
reactant | methyl iodide | 0.15 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | p-[(RS)-1-hydroxyethyl]-N-[5-(methoxybenzyl)-6-[2-[[(RS)-tetrahydro-2H-pyran-2-yl]oxy]ethoxy]-4-pyrimidinyl]benzene-sulfonamide | 135 mg | OC(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C(C1=CC=CC=C1)OC)OCCOC1OCCCC1 | C27H33N3O7S
